US06433359B1
To a solution of 50.0 g (169 mmol) of 3,7,11,15-tetramethyl-2-hexadecen-1-ol in 200 mL of ethanol were added 0.3 g (3 mmol) of triethylamine and 500 mg of 5% Pd on carbon. The mixture was maintained under 50 psi (345 kPa) of hydrogen on a Parr hydrogenator for 24 h. The mixture was filtered and concentrated, and distillation afforded 41.7 g (83%) of 3,7,11,15-tetramethyl-1-hexadecanol as a clear, colorless liquid, bp 150-155° C. at 0.05 mm Hg.

reactant | 3,7,11,15-tetramethyl-2-hexadecen-1-ol | 169 mmol, 50.0 g | CC(=CCO)CCCC(CCCC(CCCC(C)C)C)C | C20H40O
reactant | triethylamine | 3 mmol, 0.3 g | C(C)N(CC)CC | C6H15N
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 200 mL | C(C)O | C2H6O
catalyst | Pd on carbon | 500 mg | [Pd] | Pd
product | 3,7,11,15-tetramethyl-1-hexadecanol | 41.7 g, 83% | CC(CCO)CCCC(CCCC(CCCC(C)C)C)C | C20H42O
